US05084085
A stirred solution of 1.7 g (0.0041 mole) of 4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]phenylcarboxylic acid in 75 mL of thionyl chloride was heated at reflux for four hours. The excess thionyl chloride was removed by distillation under reduced pressure to yield 4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]-phenylcarboxylic acid chloride as a yellow oil.

reactant | 4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]phenylcarboxylic acid | 0.0041 mole, 1.7 g | ClC1=C(OC2=CC=C(C=C2)C(=O)O)C=C(C(=C1)F)N1N=C(N(C1=O)C(F)F)C | C17H11ClF3N3O4
reactant | thionyl chloride | 75 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]-phenylcarboxylic acid chloride | ClC1=C(OC2=CC=C(C=C2)C(=O)Cl)C=C(C(=C1)F)N1N=C(N(C1=O)C(F)F)C | C17H10Cl2F3N3O3
